US08895596B2
Step B: Ethyl 3-{[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclopentanecarboxylate.
A solution of ethyl 3-{[1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-iodo-1H-benzimidazol-2-yl]oxy}cyclopentanecarboxylate (0.290 g, 0.481 mmol), biphenylboronic acid (0.105 g, 0.530 mmol), and Pd(PPh3)4 (22 mg, 0.019 mmol) in 4.8 mL of DMF was treated with a 1 M solution of K2CO3 (0.960 mL). The resulting yellow solution was heated at 120° C. for 45 min, and then diluted with EtOAc and H2O. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated. Purification of the resulting residue by flash chromatography (0-25% EtOac/hexanes) afforded the desired compound as a white solid. LCMS: calculated for C40H34F2N2O3 628.71, observed m/e 629.1 (M+H)+ (Rt 2.82/4 min).

reactant | ethyl 3-{[1-(biphenyl-4-ylmethyl)-4,6-difluoro-5-iodo-1H-benzimidazol-2-yl]oxy}cyclopentanecarboxylate | 0.481 mmol, 0.290 g | C1(=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2F)I)F)OC2CC(CC2)C(=O)OCC)C2=CC=CC=C2 | C28H25F2IN2O3
reactant | biphenylboronic acid | 0.530 mmol, 0.105 g | B(C=1C=CC(=CC1)C=2C=CC=CC2)(O)O | C12H11BO2
reactant | K2CO3 | 0.960 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4.8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | Pd(PPh3)4 | 0.019 mmol, 22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 3-{[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclopentanecarboxylate | C1(=CC=C(C=C1)C1=C(C2=C(N(C(=N2)OC2CC(CC2)C(=O)OCC)CC2=CC=C(C=C2)C2=CC=CC=C2)C=C1F)F)C1=CC=CC=C1 | C40H34F2N2O3
